US08835462B2
To a solution of tert-butyl N-[(3S,7S,8R,9S)-7-benzyl-9-methyl-8-(2-methylallyloxy)-2-oxo-1,5-dioxonan-3-yl]-N-tert-butoxycarbonylcarbamate (3.65 g, 6.84 mmol, 1.00 equiv) in EtOAc (68 ml) was added Pd/C (10%; 0.364 g, 0.342 mmol, 0.0500 equiv). The atmosphere was replaced with hydrogen (1 atm, balloon) and the mixture was stirred vigorously overnight. The reaction was filtered through a plug of Celite® and the plug was then flushed with EtOAc (100 mL). The filtrate was concentrated to give tert-butyl N-[(3S,7S,8R,9S)-7-benzyl-8-isobutoxy-9-methyl-2-oxo-1,5-dioxonan-3-yl]-N-tert-butoxycarbonylcarbamate (3.62 g, 99%) as a white, crystalline solid: IR (ATR) 2987, 2933, 2914, 2876, 1749, 1723, 1413, 1391, 1367, 1317, 1271, 1257, 1238, 1229, 1196, 1147, 1097, 1084, 1065, 1058, 854, 744 cm−1; 1H NMR (400 MHz, CDCl3) δ 3.33-3.27 (m, 1H), 3.40-3.33 (m, 1H), 1.92-1.79 (m, 1H), 7.35-7.22 (m, 2H), 7.22-7.11 (m, 3H), 5.11 (dd, J=8.5, 6.4 Hz, 1H), 4.88 (dq, J=9.0, 6.3 Hz, 1H), 3.46-3.40 (m, 1H), 4.07 (dd, J=11.8, 6.4 Hz, 1H), 3.84 (dd, J=11.8, 8.6 Hz, 1H), 3.52 (d, J=10.6 Hz, 1H), 3.18-3.08 (m, 2H), 2.35 (s, 1H), 1.98 (s, 1H), 1.48 (s, 21H), 0.94 (d, J=6.7 Hz, 6H); 13C NMR (101 MHz, CDCl3) δ 169.98, 152.62, 140.12, 129.25, 128.32, 125.99, 84.52, 82.99, 78.82, 75.39, 70.96, 57.47, 47.05, 34.98, 29.16, 27.92, 19.49, 18.95; HRMS-ESI (m/z) [M−H]− calc'd for C29H44NO8; 534.3072. found, 534.3069.

reactant | tert-butyl N-[(3S,7S,8R,9S)-7-benzyl-9-methyl-8-(2-methylallyloxy)-2-oxo-1,5-dioxonan-3-yl]-N-tert-butoxycarbonylcarbamate | 6.84 mmol, 3.65 g, 1.00 equiv | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1OCC(=C)C)C)=O)N(C(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C29H43NO8
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 68 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.342 mmol, 0.364 g, 0.0500 equiv | [Pd] | Pd
product | tert-butyl N-[(3S,7S,8R,9S)-7-benzyl-8-isobutoxy-9-methyl-2-oxo-1,5-dioxonan-3-yl]-N-tert-butoxycarbonylcarbamate | 3.62 g, 99% | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1OCC(C)C)C)=O)N(C(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C29H45NO8
